US04925838
To a solution of (2S,4S)-2-(methanesulfonyloxy)methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine (3.0 g) in dimethylformamide (30 ml) was added (2S)-2-carbamoylpyrrolidine (10.76 g) and the mixture was stirred at 100°-110° C. for 5 hours. The reaction mixture was poured into ice-water (100 ml). The resulting precipitates were collected by filtration and washed with water (100 ml). The precipitates were dissolved in ethyl acetate (80 ml) and the solution was washed with aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo to give a residue. The residue was chromatographed on silica gel (100 g) eluting with a mixture of dichloromethane and acetone (9:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S ,4S )-2-[(2S)-2-carbamoylpyrrolidin-1-yl]methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine (0.78 g).

reactant | (2S,4S)-2-(methanesulfonyloxy)methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine | 3.0 g | CS(=O)(=O)OC[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C33H32N2O7S2
reactant | (2S)-2-carbamoylpyrrolidine | 10.76 g | C(N)(=O)[C@H]1NCCC1 | C5H10N2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (2S ,4S )-2-[(2S)-2-carbamoylpyrrolidin-1-yl]methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine | 0.78 g | C(N)(=O)[C@H]1N(CCC1)C[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C37H38N4O5S
